US03970704
To a solution of 2 g. of methyl 3,7,11-trimethyldodeca-2,4,10-trienoate and 20 ml. of dry ether, at -78°, is added slowly about 0.4 g. of lithium aluminum hydride in dry ether. The mixture is allowed to stand about 1 hour after addition is complete and then allowed to warm up to room temperature. Then 2.5 ml. of acetic acid is added. The mixture is then washed with ice water and the organic phase separated, which is dried over magnesium sulfate and evaporated to yield 3,7,11-trimethyldodeca-2,4,10-trien-1-ol.

reactant | methyl 3,7,11-trimethyldodeca-2,4,10-trienoate | CC(=CC(=O)OC)C=CCC(CCC=C(C)C)C | C16H26O2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ether | CCOCC | C4H10O
product | 3,7,11-trimethyldodeca-2,4,10-trien-1-ol | CC(=CCO)C=CCC(CCC=C(C)C)C | C15H26O
